US04906634
N-[2-Methyl-4-[[3-[bis(1-methylethyl)amino]propyl]sulfinyl]phenyl]methanesulfonamide hydrochloride
React N-[2-methyl-4-[[3-[bis(1-methylethyl)amino]propyl]thio]phenyl]methanesulfonamide hydrochloride with 30% aqueous hydrogen peroxide in a manner similar to Example 8 to obtain the title compound.

reactant | N-[2-methyl-4-[[3-[bis(1-methylethyl)amino]propyl]thio]phenyl]methanesulfonamide hydrochloride | Cl.CC1=C(C=CC(=C1)SCCCN(C(C)C)C(C)C)NS(=O)(=O)C
reactant | hydrogen peroxide | OO | H2O2
product | N-[2-Methyl-4-[[3-[bis(1-methylethyl)amino]propyl]sulfinyl]phenyl]methanesulfonamide hydrochloride | Cl.CC1=C(C=CC(=C1)S(=O)CCCN(C(C)C)C(C)C)NS(=O)(=O)C | InChI=1S/C17H30N2O3S2.ClH/c1-13(2)19(14(3)4)10-7-11-23(20)16-8-9-17(15(5)12-16)18-24(6,21)22;/h8-9,12-14,18H,7,10-11H2,1-6H3;1H
